US03998894
A mixture of 375 parts of phosphoric acid (95% strength by weight) and 1 part of phenothiazine is irradiated analogously to Example 11 for 30 minutes. The reaction is effected analogously to Example 11 and fractional distillation gives 13 parts of 1-methyl-3-phenylindan, 85.5 parts of 1-methyl-3-(o-chloro)-phenylindan (b.p. 165° to 168° C (10 mm), nD25 : 1.5890) and 7 parts of 1-methyl-3-(o-chloro)-phenyl-7-chloroindan (b.p. 195° to 200° C (10 mm)).

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | 1-methyl-3-phenylindan | CC1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H16
